US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-2-methylaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-2-methylnitrobenzene (3.23 g) in methanol (30 ml) was added palladium on carbon (0.21 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=1/1 as an eluant to give the desired compound (3.02 g, yield 99%) as a pale red oil.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-2-methylnitrobenzene | 3.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C17H24N2O5
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 0.21 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-2-methylaniline | 3.02 g, yield 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(N)C=C1)C | C17H26N2O3
